US05102877
To a solution of 1-allyloxycarbonyl-3-hydroxy-3-trimethylsilylethynylpyrrolidine (18.0 g) in pyridine (180 ml) was added dropwise thionyl chloride (29 ml) below 20° C. The resultant mixture was stirred for 1 hour and slowly poured into cooled water. The solution was extracted three times with n-hexane The extracts were combined, washed with 1N hydrochloric acid (4 times), saturated aqueous sodium hydrogen carbonate, water and brine successively, dried over magnesium sulfate and evaporated. The residue was chromatographed on silica gel to give 1-allyloxycarbonyl-3-trimethylsilylethynyl-3-pyrroline (7.25 g).

reactant | 1-allyloxycarbonyl-3-hydroxy-3-trimethylsilylethynylpyrrolidine | 18.0 g | C(C=C)OC(=O)N1CC(CC1)(C#C[Si](C)(C)C)O | C13H21NO3Si
reactant | thionyl chloride | 29 ml | S(=O)(Cl)Cl | Cl2OS
reactant | water | O | H2O
solvent | pyridine | 180 ml | N1=CC=CC=C1 | C5H5N
product | 1-allyloxycarbonyl-3-trimethylsilylethynyl-3-pyrroline | 7.25 g | C(C=C)OC(=O)N1CC(=CC1)C#C[Si](C)(C)C | C13H19NO2Si
